Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___
Cardiac catheterization ___, impella supported with drug 
eluting stents placed to left main and LAD
PICC placement ___
Right Femoral Dialysis Catheter placement ___

 

 
History of Present Illness:
___ woman post NSTEMI (infero-lateral ST dep and TWI TnT 
6.41 presenting as CHF post L THR on ___ and at angiography 
there was evidence of two vessel coronary artery disease 
including a 90% proximal stenosis and a 30% mid-vessel stenosis 
and occluded RCA. The proximal LAD lesion was stented with a 
bare metal stent. In addition, there was evidence of 
biventricular diastolic dysfunction and mild pulmonary arterial 
hypertension. Following her operation, she had a period of 
rehabilitation and was back to her baseline by ___ at 
which point she was able to walk 50ft with a cane. By ___ 
she became progressively short of breath such that prio to 
admition she had difficulty mobilizing to the bathroom. Her 
shortness of breath was more sever over the past 2 weeks 
although she denied any SOB at rest. In adition, she developed 
worsening orthopnea (4 pillows) with previously no requirement 
of no greater than 1 pillow. She noted increasing lower 
extremity edema and an increase in her weight from 112lb to 
119lb. She initially was on 40mg od of furosemide which was 
increased to 40mg bid and latterly metolazone was added. Due to 
hypotension which was otherwise asymptomatic (SBP in ___ her 
lisinopril was reduced from 5mg to 2.5mg daily. Due to her 
symptoms, she presented for a repeat echocardiogram on ___ 
which showed significant worsening of cardiac function, an EF of 
15%, significant AS, and moderate to severe MR. ___ was admitted 
for repeat coronary angiography.  
.  
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, cough, hemoptysis, black stools or 
red stools. She denies recent fevers, chills or rigors. She 
denies exertional buttock or calf pain. She noted a four day 
history of dull epigastric discomfort at night that started ___ 
which was attributed to heartburn, however not relieved by 
ranitidine, that spontaneously resolved before planned 
assessment with U/S. No urinary complaints. There were no other 
positive symptoms.  
.  
Cardiac review of systems revealed no evidence of chest pain, 
palpitations, syncope or presyncope.  

 
Past Medical History:
CARDIAC RISK FACTORS:(+)Dyslipidemia,(+)Hypertension  
PERCUTANEOUS CORONARY INTERVENTIONS: Stent to LAD ___  
.  
1) Hypertension  
2) Hyperlipidemia  
3) Hx of L breast ca s/p lumpectomy ___ no chemo/XRT  
4) R THR ___ - no complications  
5) L THR complicated by NSTEMI as above  
6) Abdominal shingles ___  
7)Placed on warfarin for apical hypokinesis and concern of 
thrombus formation  
8)Peripheral vascular disease: s/p left common femoral to below 
knee popliteal artery bypass with in situ saphenous vein and an 
open transluminal angioplasty of the anterior tibial and below 
knee popliteal arteries in ___. 
9)History of diabetes type II, although most recent HgA1c was 
5.8 (___) off of all medications
10) Depression
 
Social History:
___
Family History:
Mother - angina. Father unknown - killed in ___ camp.
 
Physical Exam:
VS: T=97.2 BP=104/64 HR=91 RR=20 O2 sat= 90% RA  
GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP elevated at 6 cm.  
CARDIAC: PMI located in ___ intercostal space with mild 
displacement. RR, normal S1, S2. ESM and PSM with radiation to 
axilla and carotids (mild). No thrills, lifts. No S3 or S4.  
LUNGS: Lumpectopmy scar, no scoliosis or kyphosis. Resp were 
unlabored, no accessory muscle use. Bibasal crackles worse on 
right with markedly decreased breath sounds bibasally associated 
with dullness to percussion. 
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits. No ascites.  
EXTREMITIES: No c/c. No femoral bruits. Bilateral lower 
extremity pitting edema (2+) to knees.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ DP 1+ ___ 1+ (but difficult given 
lower ext edema)  
Left: Carotid 2+ Femoral 2+ DP 1+ ___ 1+ (but difficult given 
lower ext edema) 
NEURO: GCS ___. Upper and lower limb examination normal. 
Cranial nerves II-XII intact no fundoscopy performed but fields 
normal.
 
Pertinent Results:
Admission Labs:
___ 03:04PM BLOOD WBC-6.2 RBC-3.92* Hgb-12.1 Hct-37.6 
MCV-96 MCH-30.7 MCHC-32.0 RDW-14.4 Plt ___
___ 03:04PM BLOOD ___
___ 03:04PM BLOOD UreaN-52* Creat-1.2* Na-139 K-4.5 Cl-99 
HCO3-29 AnGap-16
___ 03:04PM BLOOD CK(CPK)-240*
___ 03:04PM BLOOD CK-MB-6 cTropnT-0.18*
___ 05:31AM BLOOD Calcium-9.1 Phos-4.1 Mg-2.4

Other Notable Labs:
___ 01:36AM BLOOD WBC-11.9* RBC-2.50* Hgb-8.0* Hct-23.7* 
MCV-95 MCH-31.9 MCHC-33.6 RDW-17.3* Plt ___
___ 03:59AM BLOOD ___ PTT-74.2* ___
___ 12:45PM BLOOD Glucose-203* UreaN-82* Creat-4.4* Na-131* 
K-5.5* Cl-93* HCO3-16* AnGap-28*
___ 10:20PM BLOOD Lactate-2.0
___ 04:44AM BLOOD ALT-152* AST-182* CK(CPK)-577* 
AlkPhos-108* TotBili-0.8
___ 10:15AM BLOOD ALT-126* AST-137* CK(CPK)-331* 
AlkPhos-112*
___ 03:59AM BLOOD ALT-29 AST-41* LD(LDH)-281* AlkPhos-73 
TotBili-0.5

___ 05:22AM BLOOD CK(CPK)-80
___ 10:15AM BLOOD CK(CPK)-331*
___ 03:52PM BLOOD CK(CPK)-294*
___ 04:44AM BLOOD CK(CPK)-577*
___ 10:03AM BLOOD CK(CPK)-612*
___ 02:22PM BLOOD CK(CPK)-505*
___ 04:08AM BLOOD CK(CPK)-271* 
___ 10:06AM BLOOD CK(CPK)-303*
___ 10:03AM BLOOD CK-MB-10 MB Indx-1.6 cTropnT-0.50*
___ 02:22PM BLOOD CK-MB-9 cTropnT-0.47*
___ 10:06AM BLOOD CK-MB-9 cTropnT-0.47*

Discharge Labs:
___ 04:08AM BLOOD WBC-10.0 RBC-3.21* Hgb-10.2* Hct-31.5* 
MCV-98 MCH-31.7 MCHC-32.2 RDW-20.3* Plt ___
___ 10:06AM BLOOD PTT-91.5*
___ 04:08AM BLOOD ___ PTT-150* ___
___ 04:08AM BLOOD Glucose-117* UreaN-18 Creat-1.0 Na-131* 
K-4.0 Cl-93* HCO3-22 AnGap-20
___ 10:06AM BLOOD CK(CPK)-303*
___ 04:08AM BLOOD ALT-174* AST-182* LD(LDH)-313* 
CK(CPK)-271* AlkPhos-107* TotBili-1.4
___ 10:06AM BLOOD CK-MB-9 cTropnT-0.47*
___ 04:08AM BLOOD Calcium-9.8 Phos-2.2* Mg-2.1
___ 10:36AM BLOOD ___ pO2-30* pCO2-48* pH-7.38 
calTCO2-29 Base XS-0 Comment-PERIPHERAL
___ 10:36AM BLOOD freeCa-0.95*
___ 04:08AM BLOOD ALT-174* AST-182* LD(LDH)-313* 
CK(CPK)-271* AlkPhos-107* TotBili-1.4

___ ___: The left atrium is moderately dilated. Left 
ventricular wall thicknesses are normal. The left ventricular 
cavity is mildly dilated. Overall left ventricular systolic 
function is severely depressed (LVEF= 15 %) secondary to 
akinesis of the entire interventricular septum, anterior free 
wall, inferior free wall, and apex. The only segments of the 
left ventricle that are not akinetic or severely hypokinetic are 
the basal segments of the posterior and lateral walls. Tissue 
Doppler imaging suggests an increased left ventricular filling 
pressure (PCWP>18mmHg). There is no ventricular septal defect. 
Right ventricular chamber size is normal. with focal hypokinesis 
of the apical free wall. There are focal calcifications in the 
aortic arch. The aortic valve leaflets are moderately thickened. 
Significant aortic stenosis is present (not quantified). The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Moderate to severe (3+) mitral regurgitation is 
seen. [Due to acoustic shadowing, the severity of mitral 
regurgitation may be significantly UNDERestimated.] The 
tricuspid valve leaflets are mildly thickened. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. Compared with the findings of the prior study (images 
reviewed) of ___, left ventricular contractile 
function is markedly further decreased; mitral regurgitation is 
significantly increased.  

___ ___: LVEF 20%, moderate 2+ MR.
___ ___: RV systolic function appear slightly worse, LEVF 
25%, 3+ MR.
___ ___: RV function appears slightly improved and estimated 
pulmonary artery pressure is lower. LVEF ___, 3+ MR.  

___ ___: Left ventricular wall thicknesses are normal. The 
left ventricular cavity size is top normal/borderline dilated. 
There is severe global left ventricular hypokinesis (LVEF = 
___ %). No masses or thrombi are seen in the left ventricle. 
The right ventricular cavity is moderately dilated with severe 
global free wall hypokinesis. The aortic valve leaflets are 
moderately thickened. Significant aortic stenosis is present 
(not quantified). The mitral valve leaflets are mildly 
thickened. Moderate to severe (3+) mitral regurgitation is seen. 
Tricuspid regurgitation is present but cannot be quantified. The 
pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. Compared with the prior study 
(images reviewed) of ___, LV systolic dysfunction remains 
severely depressed. RV systolic function is now significantly 
depressed.  

ECG on admission ___: Sinus rhythm. Left bundle-branch 
block. Compared to the previous tracing of ___ no definite 
change. 

ECG ___: Sinus rhythm. Left bundle-branch block. 
Intermittent wide complex beats of different morphology that may 
be late-cycle ventricular premature beats versus possible 
changing pattern of intraventricular conduction delay showing 
left axis deviation. Since the previous tracing of ___ there 
is no significant change. 

CXR on admission ___: Allowing for differences in patient 
positioning, large left and moderate right pleural effusions are 
not substantially changed. Together with basilar atelectasis, 
there is obscuration of the heart borders. Mild-to-moderate 
pulmonary edema is not changed. There is no pneumothorax. Aortic 
calcifications are noted. 

CXR ___: Progression of venous congestion with moderately 
large bilateral pleural effusions. 
 
Brief Hospital Course:
___ s/p NSTEMI ___ with stent to LAD who presented with 
worsening CHF, echo demonstrated significant worsening in LV 
function (LVEF 15%, most recent ___ and MR, s/p 
cardiac catheterization ___ which revealed in-stent 
restenosis of proximal LAD and worsened atherosclerotic disease 
of left main stem. Impella with stenting of LMA lesions on 
___. Her post-catherization recovery had been complicated by 
___, hypotension, and respiratory distress due to pulmonary 
edema. She developed left limb ischemia likely secondary to 
contrast nephropathy in addition to hypotension and her 
condition progressivly deteriorated and she died on ___ 
after being made for comfort measures only on ___.
. 
# Systolic heart failure: Worsening SOB, increased pulmonary 
edema and bilateral pleurel effusions thought to be secondary to 
either worsening MR or ischemic cardiomyopathy on admission. 
Echo on day of admission revealed diminished LVEF for 15% and 
moderate 3+ MR.  ___ cath on ___ revealed 90% instent 
restenosis of the LAD stent as well as left main disease, and 
the patient underwent impella-supported PCI on ___ with 
stenting of left main. She was electively intubated for the 
procedure following an episode of hypoxia the night of ___ 
in which she temporarily required a non-rebreather and CPAP to 
maintain O2 sats. She was able to be extubated shortly after 
returning to the CCU.  Repeat echo ___ showed improved LVEF 
of 20% and reduced MR, 2+. The patient had a PICC line placed 
and was briefly started on dopamine, however she did not 
torelate this and it was discontinued.  She later developed 
acute renal failure post-procedure with anuria likely due to a 
combination of low BP and contrast induced nephropathy requiring 
CVVH for which she was dependent. Her SBP was consistently low 
with SBP in ___ and was closely monitord. She started to recieve 
blood pressure support with Norepinephrine which she initially 
tolerated well and at highr levels was associated with 
increasingly ischemic appearance of her left ___ and she was 
eventually weaned off only to be restarted on the morning of 
___. Patient remained on oxygen via nasal cannula ___, and 
maintained her O2 sats on this. She started heparin gtt (___) 
for both for her cardiac hypokinesis and any potential arterial 
embolism of her left leg after her INR decreased to 
subtherapeutic levels. By ___, her SBP ropped into tteh ___ and 
norepinephrine wa restarted although her ischemic limbs became 
worse and her BP was only able to be maintained in the high 
___. On ___ after discussion with her family, she was 
made for comfort measures only and an echo on ___ revealed a 
significantly decreased LVEF of only ___, in addition to 
worse RV systolic function. She died on ___.           
.
# CAD: The patient had an NSTEMI in ___ s/p L THR surgery, 
and it was thought that an ischemic cardiomyopathy may be the 
etiology for her current presentation.  There was a question of 
whether her LAD stent had thrombosed, given significant 
worsening of LV function (EF ___ in ___ to EF of 15% on 
admission ___.  The patient underwent a cardiac cath on 
___ to evaluate her coronary arteries, which revealed 90% 
in-stent restenosis in the proximal LAD, worsened 
atheresclerotic disease of the left main (ostial 70% left main 
lesion), and complete occlusion of the RCA with the distal RCA 
perfused via collaterals.  The patient did not wish for surgical 
intervention, and then underwent an impella-supported PCI with 
stenting of the left main stem on ___.  She was electively 
intubated for the procedure after a brief episode of hypoxia the 
night prior to the cath. After the interventional catherization 
her asprin, plavix was continued. She recieved simvastatin which 
was discontinued ___ given increasing LFTs. Metoprolol held 
given her hypotension. She was placed on heaprin drip after her 
INR became subtherapeutic on ___.  
.
# Acute Renal Failure: The patient's Cr trended up from 1.2 on 
admission to 3.0 on ___.  A renal consult was called. Likely 
secondary to contrast nephropathy, as well as renal compromise 
in setting of hypotension.  Patient remained anuric x6 days. 
Started CVVH ___, with goal of removing 50-100mL of fluid per 
hour through a femoral dialysis line. Electrolytes were closely 
monitored and repleted as needed. Hemodynamics and respiratory 
status were closely monitored. Resipratory status greatly 
improved with removal of fluid by dialysis but she remained 
anuric and was initially due to have a permanent dialysis 
catheter placed but was too unstable to go for the procedure so 
CVVH was continued with her femoral dialysis line. She developed 
progressive cardiovascular instability and she required furtehr 
inotropic support. She was made for comfort measures only on 
___ and died on ___.     
.  
# Hypotension - BP was hypotensive on admission, likely 
multifactorial and secondary to diuresis, anti-hypertensives and 
poor CO.  SBP range generally ___ with several SBP readings 
as low as ___ following administration of IV metoprolol which 
was held on most of the admission.  Her BP was also felt to be 
contributory to her acute renal failuer which occurred post-cath 
and was felt to be in combination with contrast-induced 
nephropathy following two catheterisations and a high contrast 
burden. Norepinephrine was used intermittengly for blood 
pressure support and she was able initially to be weaned off 
this post-catheterisation however due to persistent severe 
hypotension on ___ this was restarted. She was made for comfort 
measures only on ___ and died ___.
.
# Hyperlipidemia - She was continued on her home simvastatin 
until ___, when it was stopped in setting of rising LFTs and 
elevated CK.
.
# Ischemic lower limbs in context of hypotension: On admission 
there were faintly palpable peripheral pulses in both feet left 
worse than right. Her left foot to the mid-shin was noted to be 
mottled since vasopressors were requierd to support her BP. She 
was reviewed daily by vascular who felt no acute intervention 
was needed but recommended a heparin infusion which was 
commenced on ___. Leg appearance initially improved with 
weaning norepinephine and using bear-hugger to warm extremities 
however worsened with decreasing SBPs.  Pulses in the feet were 
intermittently present on doppler in the right foot and absent 
on the left but this also varied as to being detectable. She 
also had considerable ischemic limb pain requiring increasing 
levels of IV hydromorphoen with associated sedation. We 
continued the warming blanket which seemed to help her leg 
appearance and potentially pain. CK levels were trended in case 
of compartment syndrome following re-perfusion injury but 
generally decreased. By ___, both legs appeared ischemic, worse 
on the left with on pulses present on doppler and greatly 
decreased capillary refill worsening with falling BP. She was 
made for comfort measures only on ___ and died on ___. 
.
#Increasing LFT’s –Possibly caused by hypoperfusion because of 
the diminished cardiac output from her ischemic disease. Also 
could have been drug related. The AST/ALT levels were 182/174 
respectively, and not remarkable enough for ischemic liver. No 
signs of abdominal tenderness were seen on physical exam. We 
discontinued her statin and restarted tylenol only after 
increasing lower extremity pain. We trended her LFT's.
.
# Run of VT. On admission, patient was in sinus rhythm with LBBB 
(partial) and infero-lateral ischemic changes on ECG. The 
patient had episodes of PVC’s ___ beats intermittently at 
increasing frequency, and had several runs of NSVT. There was an 
episode of ?VT on ___ VT which EP felt rhythm more likely to be 
VT than SVT with aberrancy.  Patient started on amiodarone 
infusion on ___.  Arrhythmia could be due to ischemic 
ventricular tissue/reperfusion of injured ventricular tissue, or 
electrolyte imbalance. We trended electrolytes and repleted as 
needed. We held Metoprolol given her hypotension. She had no 
furtehr episodes of VT until her death on ___.
.
#Thrush –observed on physical exam on ___. Possibly caused by 
prolonged usage of facial oxygen mask and NC which can dry the 
mucous membranes. Admistered Nystatin swish and swallow which 
was administered by a tongue sponge. 
.
# Leukocytosis- WBC trended down, after initially being elevated 
and patient was afebrile with no clinical signs of infection.  
However, given decline in hemodynamic stability, we monitored 
closely for signs of infection/sepsis. We followed up blood 
cultures and continue to trend WBC which was trending down. She 
did not require any antibiotics.

# Confirmation of death - Dr ___ ___
Called to see patient at 0216. Patient's code status changed to 
comfort measures only earlier today, and she has been on 
morphine gtt titrated to patient's comfort. Patient seen and 
examined. Pupils fixed and dilated. No heart sounds or breath 
sounds auscultated. Carotid and radial pulses absent 
bilaterally. Telemetry monitor reveals asystole.  

Patient expired with husband at beside, daughter and son in 
waiting room. Family has declined autopsy. Attending Dr. ___ 
___.

I hearby proclaim the patient, ___, deceased. Time of 
death 02:35, ___.

 
Medications on Admission:
1. Aspirin 325 mg daily  
2. Clopidogrel 75 mg daily  
3. Multivitamin1 tab daily  
4. Lisinopril 2.5mg daily recent decrease from 5mg on ___. Simvastatin 80 mg daily  
6. Leuteine 6mg daily  
7. Trazodone 50 mg QHS prn insomnia  
8. Coumadin 5 mg daily  
9. Furosemide 40mg bid last dose on ___. Acetaminophen Extra Strength 1000 mg TID PRN  
11. Metoprolol Succinate 12.5 mg daily  
12. Metolazone 2.5mg daily alt days.  

 
Discharge Medications:
Morphine Sulfate ___ mg/hr IV DRIP
Lidocaine 5% Patch 2 PTCH TD DAILY left foot, 12 hrs on, 12 hrs 
off 
Acetaminophen 650 mg PO/PR TID 
Lorazepam 0.5-1 mg IV Q4H:PRN Anxiety 
Capsaicin 0.025% 1 Appl TP TID 
Sarna Lotion 1 Appl TP BID:PRN itching 
Heparin Flush (10 units/ml) 2 mL IV PRN line flush PICC, heparin 
dependent. 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
patient has passed away 
 
Discharge Condition:
patient has passed away 
 
Discharge Instructions:
patient has passed away 
 
Followup Instructions:
___